US05130335
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
A solution of 116 mg (0.5 mmol) of 5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoic acid, 58 mg (0.5 mmol) of ethyl 4-hydroxybenzoate, 117 mg (0.56 mmol) of 1,3-dicyclohexylcarbodiimide and 30 mg (0.25 mmol) of 4-dimethylaminopyridine in 15 ml of methylene chloride was stirred at room temperature for 12 hours. The reaction mixture was then filtered and the filtrate concentrated in-vacuo. The resultant residue was purified by flash chromatography (silica; 5% ethyl acetate in hexanes) to give the title compound as white crystals.

reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoic acid | 0.5 mmol, 116 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)O)C | C15H20O2
reactant | ethyl 4-hydroxybenzoate | 0.5 mmol, 58 mg | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1,3-dicyclohexylcarbodiimide | 0.56 mmol, 117 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.25 mmol, 30 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C24H28O4
